US09382234B2
To a cooled (0° C.) solution of sulfuric acid (4.0 mL, 16.24 mmol) was added fuming nitric acid (4.0 mL, 16.24 mmol) via pipette over 5 min. The reaction was maintained at 0° C. for 30 min, at which time 2,6-dimethylpyridin-4(1H)-one (2.0 g, 16.24 mmol) was added as a solid over 5 min. The mixture was allowed to warm to ambient temperature and was stirred for 3 days. The reaction mixture was then heated at 100° C. for 2 h, at which time it was allowed to cool to ambient temperature. The red fumes were blown into a base trap with nitrogen and the reaction mixture was poured over ˜33 g of ice. The mixture was cooled in an ice bath and was stirred (some precipitate formed). The reaction was treated with 8 M NaOH and the pH was further adjusted to ˜5.3 with formic acid and ammonia. The mixture was stirred for 5 min and cooled in a freezer for 15 min. The solids were filtered, washed with water, air dried for 5 min, and further dried in a vacuum oven at 37° C. overnight to give 2,6-dimethyl-3-nitropyridin-4(1H)-one (440 mg, 2.56 mmol, 15.79% yield). 1H NMR (400 MHz, DMSO-d6) δ 2.22 (s, 3H) 2.28 (s, 3H) 6.18 (s, 1H) 11.84 (br. s., 1H). MS(ES) [M+H]+ 168.9.

reactant | sulfuric acid | 16.24 mmol, 4.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 16.24 mmol, 4.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2,6-dimethylpyridin-4(1H)-one | 16.24 mmol, 2.0 g | CC=1NC(=CC(C1)=O)C | C7H9NO
reactant | NaOH | 8 M | [OH-].[Na+]
reactant | ammonia | N | H3N
solvent | formic acid | C(=O)O | CH2O2
product | 2,6-dimethyl-3-nitropyridin-4(1H)-one | 2.56 mmol, 440 mg, 15.79% yield | CC=1NC(=CC(C1[N+](=O)[O-])=O)C | C7H8N2O3
